US06083961
To a solution of 3-[N-[(E)-3-(6-acetylaminopyridin-3-yl)acryloylglycyl]-N-methylamino]-1-hydroxymethyl-2,6-dimethylbenzene (200 mg) in dimethylformamide (2 ml) were added triethylamine (136.1 μl) and mesyl chloride (52.9 μl) at 0° C., and the mixture was stirred for 1 hour at the same temperature and then for 1 hour at ambient temperature. Chloroform and saturated sodium bicarbonate solution were added to the reaction mixture, and the separated organic layer was washed with water, saturated sodium bicarbonate solution and brine, and dried over magnesium sulfate. The solvent was removed in vacuo to give 3-[N-[(E)-3-(6-acetylaminopyridin-3-yl)acryloylglycyl]-N-methylamino]-2,6-dimethylbenzyl chloride (191.0 mg) as pale yellow solid.

reactant | 3-[N-[(E)-3-(6-acetylaminopyridin-3-yl)acryloylglycyl]-N-methylamino]-1-hydroxymethyl-2,6-dimethylbenzene | 200 mg | C(C)(=O)NC1=CC=C(C=N1)/C=C/C(=O)NCC(=O)N(C)C=1C(=C(C(=CC1)C)CO)C | C22H26N4O4
reactant | triethylamine | 136.1 μl | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 52.9 μl | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-[N-[(E)-3-(6-acetylaminopyridin-3-yl)acryloylglycyl]-N-methylamino]-2,6-dimethylbenzyl chloride | 191.0 mg | C(C)(=O)NC1=CC=C(C=N1)/C=C/C(=O)NCC(=O)N(C)C=1C(=C(CCl)C(=CC1)C)C | C22H25ClN4O3
